### PR TITLE
Proving slash action relations for the psi functions #73. 

### PR DESCRIPTION
**Pull request by Strichcoder**
only the file psi.lean has been changed.

### CODE REVIEW

File: SpherePacking/MagicFunction/b/psi.lean [hunk 1]
```diff
@@ -51,65 +51,468 @@ def ψT' (z : ℂ) : ℂ := if hz : 0 < z.im then ψT ⟨z, hz⟩ else 0
...
-    exact fun _ ↦ ne_of_gt z.2
-  symm; calc
-  _ = ((z : ℂ) ^ (-2 : ℤ)) / (z ^ (-4 : ℤ)) := by
-      congr 1
-      simp only [Int.reduceNeg, _root_.zpow_neg, inv_pow, _root_.inv_inj]
-      change ((z : ℂ) ^ 2) ^ 2 = z ^ (2 * 2)
-      exact (pow_mul (z : ℂ) 2 2).symm
-  _ = _ := by rw [← zpow_sub₀ h₁]; rfl
+private lemma z_nonzero (z : ℍ ): (z : ℂ ) ≠ 0 := by
+      simp only [ne_eq]
```
Comment (b-mehta) [inline SpherePacking/MagicFunction/b/psi.lean]: Please could you make sure your contribution follows the usual Lean style guidelines, in particular with respect to indentation and spacing? You can see these here: https://leanprover-community.github.io/contribute/style.html#structuring-definitions-and-theorems and I have taken the liberty of adjusting the theorem statement here too:
```suggestion
private lemma z_nonzero (z : ℍ) : (z : ℂ) ≠ 0 := by
  simp only [ne_eq]
```

Comment (seewoo5) [reply SpherePacking/MagicFunction/b/psi.lean]: Would it be possible to add formatting check in CI? I know that it exists in mathlib4 but I don't know how to do it myself.

Comment (b-mehta) [reply SpherePacking/MagicFunction/b/psi.lean]: @adomani Would you happen to know about this?

Comment (adomani) [reply SpherePacking/MagicFunction/b/psi.lean]: This is probably referring to the `commandStart` linter.  Setting the linter option to `true` may be all that is needed.

Although it don't remember if I hooked it up into Anne's linterSet for mathlib.  I'll take a look tomorrow, but in the meatime setting the option either in the lakefile or (or whenever you want to use the linter) should suffice.

File: SpherePacking/MagicFunction/b/psi.lean [hunk 2]
```diff
@@ -51,65 +51,467 @@ def ψT' (z : ℂ) : ℂ := if hz : 0 < z.im then ψT ⟨z, hz⟩ else 0
...
-    push_neg
-    exact fun _ ↦ ne_of_gt z.2
-  symm; calc
-  _ = ((z : ℂ) ^ (-2 : ℤ)) / (z ^ (-4 : ℤ)) := by
-      congr 1
-      simp only [Int.reduceNeg, _root_.zpow_neg, inv_pow, _root_.inv_inj]
-      change ((z : ℂ) ^ 2) ^ 2 = z ^ (2 * 2)
-      exact (pow_mul (z : ℂ) 2 2).symm
-  _ = _ := by rw [← zpow_sub₀ h₁]; rfl
+private lemma z_nonzero (z : ℍ): (z : ℂ) ≠ 0 := by
```
Comment (seewoo5) [inline SpherePacking/MagicFunction/b/psi.lean]: This is in mathlib (also space before `:`)
```suggestion
private lemma z_nonzero (z : ℍ) : (z : ℂ) ≠ 0 := UpperHalfPlane.ne_zero z
```

File: SpherePacking/MagicFunction/b/psi.lean [hunk 3]
```diff
@@ -51,65 +51,467 @@ def ψT' (z : ℂ) : ℂ := if hz : 0 < z.im then ψT ⟨z, hz⟩ else 0
...
+    have im_add_im_eq_add_im (a b : ℂ) : a.im + b.im = (a + b).im := by
+      exact rfl
+    calc
+      0 < z.im := z.2
+      _ ≤ z.im + (0 : ℝ) := le_add_of_nonneg_right (zero_le_zero) --  sorry -- le_add_of_nonneg_right (zero_le_zero ℝ ) --apply le_add_of_nonneg_right (Real.zero_lt_one)
+      _ ≤ z.im + (1 : ℂ).im := by rw [← zero_eq_one_im]
+      _ = (z + 1 : ℂ).im := im_add_im_eq_add_im z 1
+  by_contra hz
+  rw [hz] at hh
+  exact (lt_self_iff_false 0).mp hh
```
Comment (seewoo5) [inline SpherePacking/MagicFunction/b/psi.lean]:
```suggestion
private lemma z_plus_one_nonzero (z : ℍ) : (z + 1 : ℂ) ≠ 0 := by
  have hh : 0 < (z + 1 : ℂ).im  := by
    calc
      0 < z.im := z.2
      _ = (z + 1 : ℂ).im := by simp
  by_contra hz
  rw [hz] at hh
  exact (lt_self_iff_false 0).mp hh
```

File: SpherePacking/MagicFunction/b/psi.lean [hunk 4]
```diff
@@ -51,65 +51,467 @@ def ψT' (z : ℂ) : ℂ := if hz : 0 < z.im then ψT ⟨z, hz⟩ else 0
...
+
+private lemma slashS (z :ℍ) (F : ℍ → ℂ) : ((F) ∣[(2 : ℤ)] (S)) (z) =
+                         (F) (S • z) * (z : ℂ)^(-2 : ℤ) := by
+  rw [SL_slash_apply]
+  rw [S]
+  rw [denom]
```
Comment (seewoo5) [inline SpherePacking/MagicFunction/b/psi.lean]:
```suggestion
  rw [SL_slash_apply, S, denom]
```

File: SpherePacking/MagicFunction/b/psi.lean [hunk 5]
```diff
@@ -51,65 +51,467 @@ def ψT' (z : ℂ) : ℂ := if hz : 0 < z.im then ψT ⟨z, hz⟩ else 0
...
+    SpecialLinearGroup.coe_GL_coe_matrix, SpecialLinearGroup.map_apply_coe,
+    RingHom.mapMatrix_apply, Int.coe_castRingHom, map_apply, of_apply, cons_val', cons_val_zero,
+    cons_val_fin_one, cons_val_one, Int.cast_one, ofReal_one, one_mul, Int.cast_zero,
+    ofReal_zero, add_zero, zpow_neg]
+
+private lemma slashS' (z : ℍ) (F : ℍ → ℂ) : ((F) ∣[(-2 : ℤ)] (S)) (z) =
+                         (F) (S • z) * (z : ℂ)^(2 : ℕ) := by
+  rw [SL_slash_apply]
+  rw [S]
+  rw [denom]
```
Comment (seewoo5) [inline SpherePacking/MagicFunction/b/psi.lean]:
```suggestion
  rw [SL_slash_apply, S, denom]
```
There are other `rw`s that can be merged into a single line.

**Review by thefundamentaltheor3m — CHANGES_REQUESTED** [review]
@Strichcoder, sorry for being a bit late to the party, but first of all, thank you for your contribution! Re the review, I agree with all of @seewoo5's observations. It looks like you've marked them as resolved, but I can't see the changes...

**Comment by Strichcoder** [comment]
Hi guys.
I am not so familiar with the git workflow. I hope I correctly accepted your changes. What do I have to do next? 
I might need a detailed explanation. do I need to download something before doing the changes? Or do I just do the changes in my branch, then commit and PR as before?

File: SpherePacking/MagicFunction/b/psi.lean [hunk 6]
```diff
@@ -51,65 +51,449 @@ def ψT' (z : ℂ) : ℂ := if hz : 0 < z.im then ψT ⟨z, hz⟩ else 0
...
+  rw [ψS_slash_S, ]
+  have def_ψT : ψT = ψI ∣[-2] (T) := rfl
+  rw [← def_ψT, ψT_slash_S]
+
+-- original statement of this lemm contained a sign error:
+-- lemma ψS_slash_TSTS : ψS ∣[-2] (T * S * T * S) = -ψT
+lemma ψS_slash_TSTS : ψS ∣[-2] (T * S * T * S) = ψT := by
+  ext z
+  rw [slash_mul, slash_mul, slash_mul]
+  rw [ψS_slash_T, neg_slash, ψS_slash_S, neg_slash]
```
Comment (thefundamentaltheor3m) [inline SpherePacking/MagicFunction/b/psi.lean]: Again, the `rw` lines here can be merged. It's considered better style to have all rewrite statements in one line. So this line would need to look like
```
rw [slash_mul, slash_mul, slash_mul, ψS_slash_T, neg_slash, ψS_slash_S, neg_slash]
```

File: SpherePacking/MagicFunction/b/psi.lean [hunk 7]
```diff
@@ -51,65 +51,449 @@ def ψT' (z : ℂ) : ℂ := if hz : 0 < z.im then ψT ⟨z, hz⟩ else 0
...
+    rw [← neg_add, ← neg_div', ← right_distrib]
+    rw [pow_two, mul_comm h2 d, mul_assoc d h2 (d * h2), ← div_div, ← mul_div_assoc']
+    rw [div_self, mul_one, mul_comm d h2, ← mul_assoc, ← div_div, ← pow_two]
+    exact d_nonzero
+  rw [resolve, resolve]
+  rw [neg_div', neg_div', neg_div', ← add_div, mul_div_assoc',  div_mul]
+  rw [div_self, div_one, neg_div, ← sub_eq_add_neg, ← neg_add', mul_neg, add_comm, add_comm (H₄ z) _, add_comm (H₃ z) (H₂  z)]
+  exact pow_ne_zero 2 (z_nonzero z)
+  exact pow_ne_zero 2 (z_nonzero z)
+  exact pow_ne_zero 2 (z_nonzero z)
```
Comment (thefundamentaltheor3m) [inline SpherePacking/MagicFunction/b/psi.lean]: Per convention, different sub-goals should be indented.

File: SpherePacking/MagicFunction/b/psi.lean [hunk 8]
```diff
@@ -51,65 +51,449 @@ def ψT' (z : ℂ) : ℂ := if hz : 0 < z.im then ψT ⟨z, hz⟩ else 0
...
+  rw [ψT_eq, slashS']
+  simp only [Pi.mul_apply, Pi.ofNat_apply, Pi.add_apply, Pi.div_apply,
+    Pi.pow_apply, Pi.neg_apply]
+  rw [slashS'' z ⇑H₂_MF, slashS'' z ⇑H₃_MF, slashS'' z ⇑H₄_MF]
+  have hh2 : (H₂_MF : ℍ → ℂ) = H₂ := by exact rfl
+  have hh3 : (H₃_MF : ℍ → ℂ) = H₃ := by exact rfl
+  have hh4 : (H₄_MF : ℍ → ℂ) = H₄ := by exact rfl
+  rw [hh2 , hh3, hh4]
+  rw [H₂_S_action, H₃_S_action, H₄_S_action]
+  field_simp
```
Comment (thefundamentaltheor3m) [inline SpherePacking/MagicFunction/b/psi.lean]: Non-terminal `simp` statements (including `field_simp`) are not considered good form because if some lemmas in `mathlib` are tagged with `simp` and others are untagged, it might break proofs with non-terminal `simp`s. It's better to mention explicit lemmas using `simp only` because that makes it easier to troubleshoot if things break after a `mathlib` bump.

File: SpherePacking/MagicFunction/b/psi.lean [hunk 9]
```diff
@@ -51,65 +51,449 @@ def ψT' (z : ℂ) : ℂ := if hz : 0 < z.im then ψT ⟨z, hz⟩ else 0
...
+  simp only [sl_moeb, coe2_smul, Fin.isValue, SpecialLinearGroup.coe_GL_coe_matrix,
+    SpecialLinearGroup.map_apply_coe, RingHom.mapMatrix_apply, Int.coe_castRingHom, map_apply,
+    of_apply, cons_val', cons_val_zero, cons_val_fin_one, cons_val_one, Int.cast_zero,
+    ofReal_zero, zero_mul, Int.cast_one, ofReal_one, zero_add, Int.reduceNeg, neg_neg, one_zpow,
+    mul_one]
+ -- no need for slashT'', as ← slashT already fulfils that role
+
+private lemma S_mul_T : S * T = ⟨!![0, -1; 1, 1], by norm_num [det_fin_two_of]⟩ := by
+  ext (i : Fin 2) (j : Fin 2)
+  fin_cases i; fin_cases j
```
Comment (thefundamentaltheor3m) [inline SpherePacking/MagicFunction/b/psi.lean]: You can golf this by adding `<;>` after `fin_cases j`. Then only the first `simp [mul_apply, S, T]` is needed: you can remove the other two.
(`<;>` is a nice bit of syntax that applies whatever immediately follows it to all of the goals in the proof. It's great for golfing, and it's definitely something worth using in the future.)

**Review by thefundamentaltheor3m — CHANGES_REQUESTED** [review]
I really appreciate the effort here @Strichcoder, thank you. Unfortunately, there are still style issues with the code. Non-terminal `simp`s, in particular, could also make troubleshooting difficult in the future. I refer you to https://leanprover-community.github.io/contribute/style.html and https://b-mehta.github.io/formalising-mathematics-notes/Part_1/well_formatted_code.html for more.

File: SpherePacking/MagicFunction/b/psi.lean (hunk 8 above)
Comment (Strichcoder) [reply SpherePacking/MagicFunction/b/psi.lean]: Thank you. I understand that it is better to explicitly state the lemmas that matter. Unfortunately there are four places in my code where I can not just replace `field_simp` by the result of `simp?`, because then the proof breaks. I could try to trouble shoot that and rewrite my proofs. Should I? That would be annoying and quite diminish the usefulness of the field_simp tactic.

File: SpherePacking/MagicFunction/b/psi.lean (hunk 9 above)
Comment (Strichcoder) [reply SpherePacking/MagicFunction/b/psi.lean]: The following does not work:
`private lemma S_mul_T : S * T = ⟨!![0, -1; 1, 1], by norm_num [det_fin_two_of]⟩ := by`
  `ext (i : Fin 2) (j : Fin 2)`
  `fin_cases i; fin_cases j <;>`
  `· simp [mul_apply, S, T]`
  But if I do this, then it works. I don't know why.
  `private lemma S_mul_T : S * T = ⟨!![0, -1; 1, 1], by norm_num [det_fin_two_of]⟩ := by`
  `ext (i : Fin 2) (j : Fin 2)`
 ` fin_cases i; fin_cases j <;>`
  `· simp [mul_apply, S, T]`
 `· simp [mul_apply, S, T]`

File: SpherePacking/MagicFunction/b/psi.lean [hunk 10]
```diff
@@ -51,65 +51,410 @@ def ψT' (z : ℂ) : ℂ := if hz : 0 < z.im then ψT ⟨z, hz⟩ else 0
...
-    push_neg
-    exact fun _ ↦ ne_of_gt z.2
-  symm; calc
-  _ = ((z : ℂ) ^ (-2 : ℤ)) / (z ^ (-4 : ℤ)) := by
-      congr 1
-      simp only [Int.reduceNeg, _root_.zpow_neg, inv_pow, _root_.inv_inj]
-      change ((z : ℂ) ^ 2) ^ 2 = z ^ (2 * 2)
-      exact (pow_mul (z : ℂ) 2 2).symm
-  _ = _ := by rw [← zpow_sub₀ h₁]; rfl
+private lemma z_nonzero (z : ℍ) : (z : ℂ) ≠ 0 := UpperHalfPlane.ne_zero z
```
Comment (seewoo5) [inline SpherePacking/MagicFunction/b/psi.lean]: You don't need z_nonzero; you can replace all of them with UpperHalfPlane.ne_zero and remove z_nonzero (basically, you don't have to prove a theorem that is already proven and in mathlib).

File: SpherePacking/MagicFunction/b/psi.lean (hunk 1 above)
Comment (grunweg) [reply SpherePacking/MagicFunction/b/psi.lean]: I just randomly stumbled across this thread and checked: the `commandStart` linter is part of the mathlib linter set.
In other words, setting `linter.mathlibStandardSet` to `true` in your lakefile will also enable this linter. Hope that helps!

Comment (b-mehta) [reply SpherePacking/MagicFunction/b/psi.lean]: Oh, thanks! If you want to make a PR enabling it (which might involve fixing the fallout), then I'd be very happy to merge it. But I realise this might be a bit of work for you, so no worries if not.

Comment (grunweg) [reply SpherePacking/MagicFunction/b/psi.lean]: I won't have time to do this in the next weeks, sorry.

Comment (b-mehta) [reply SpherePacking/MagicFunction/b/psi.lean]: No worries at all, thanks for clearing this up in any case

Comment (seewoo5) [reply SpherePacking/MagicFunction/b/psi.lean]: Would it be simply copy-pasting this line in mathlib's lakefile?

https://github.com/leanprover-community/mathlib4/blob/7549c63eb32d54d5af90cb03e012ea5a2589ba3b/lakefile.lean#L25-L31

Probably only `linter.mathlibStandardSet` part? If it is, I can make such PR.

**Comment by seewoo5** [comment]
Could you merge main and resolve conflict? Also I guess @thefundamentaltheor3m is on vacation now. (I already approved)

File: SpherePacking/MagicFunction/b/psi.lean (hunk 1 above)
Comment (b-mehta) [reply SpherePacking/MagicFunction/b/psi.lean]: Not exactly, since that's a `lakefile.lean` rather than a `lakefile.toml`, but that's easily fixed, we just need to add `linter.mathlibStandardSet = true` to our `.toml` next to the other options. But the trickier part (I believe) is fixing the lint errors that would cause, to make CI pass. Please feel free to try, or even make a branch/PR doing some of the work and others can pick it up.

**Comment by Strichcoder** [comment]
I tried to merge and resolve conflict by
`git checkout my-fix-branch
git fetch origin
git merge origin/main
git push origin my-fix-branch`
But I always got `Your branch is up to date with ..` and `Already up to date` and `Everything up-to-date`
Am I doing this correctly?

**Comment by Strichcoder** [comment]
Hmm. I still get `Your branch is up to date with 'origin/main'` and `already up to date`.

**Comment by seewoo5** [comment]
@Strichcoder Hmm that's weird. Could you do `git log` for both `main` and `my-fix-branch` and tell me the top results for both?
```sh
git checkout main
git log
git checkout my-fix-branch
git log
```

**Comment by seewoo5** [comment]
It seems that your main branch hasn't been updated for a while (it says June 17). You can checkout to the main branch and pull. If it doesn't work, honestly I have no idea and what I'd suggest is just remove all local directory and re-clone the repository, where you still have all your works in this branch.

**Comment by Strichcoder** [comment]
Yeah, when I do `git checkout main`, I get: 
`Switched to branch 'main'`
`Your branch is up to date with 'origin/main'`
And then when I do `git pull` I get
`Already up to date`
So I will create a new branch, paste my code there and then open a pull request for that..
